US05859014
substituting 5-fur-2-yl-2,4(1H,3H)pyrimidinedione and di-tert-butyl dicarbonate gave tert-butyl 5-fur-2-yl-2,4-dioxo-(1H,3H)-1-pyrimidinecarboxylate;

reactant | 5-fur-2-yl-2,4(1H,3H)pyrimidinedione | O1C(=CC=C1)C=1C(NC(NC1)=O)=O | C8H6N2O3
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl 5-fur-2-yl-2,4-dioxo-(1H,3H)-1-pyrimidinecarboxylate | O1C(=CC=C1)C=1C(NC(N(C1)C(=O)OC(C)(C)C)=O)=O | C13H14N2O5
